* NGSPICE file created from NOR_GATE3x1.ext - technology: sky130A
.subckt NOR3x1_pex a b c y vdd vss
X0 y c w_14_248 w_14_248 sky130_fd_pr__pfet_01v8 ad=0.1925 pd=1.45 as=0.24063 ps=1.8125 w=1.1 l=0.15
X1 vss a a_260_60 vss sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.245 as=0.084 ps=0.83 w=0.48 l=0.15
X2 w_14_248 a y w_14_248 sky130_fd_pr__pfet_01v8 ad=0.24063 pd=1.8125 as=0.1925 ps=1.45 w=1.1 l=0.15
X3 vss c a_2460_60 vss sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.245 as=0.084 ps=0.83 w=0.48 l=0.15
X4 vss b a_1360_60 vss sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.245 as=0.084 ps=0.83 w=0.48 l=0.15
X5 y a w_14_248 w_14_248 sky130_fd_pr__pfet_01v8 ad=0.1925 pd=1.45 as=0.24063 ps=1.8125 w=1.1 l=0.15
X6 y b w_14_248 w_14_248 sky130_fd_pr__pfet_01v8 ad=0.1925 pd=1.45 as=0.24063 ps=1.8125 w=1.1 l=0.15
X7 y c w_14_248 w_14_248 sky130_fd_pr__pfet_01v8 ad=0.1925 pd=1.45 as=0.24063 ps=1.8125 w=1.1 l=0.15
X8 y c w_14_248 w_14_248 sky130_fd_pr__pfet_01v8 ad=0.1925 pd=1.45 as=0.24063 ps=1.8125 w=1.1 l=0.15
X9 w_14_248 b y w_14_248 sky130_fd_pr__pfet_01v8 ad=0.24063 pd=1.8125 as=0.1925 ps=1.45 w=1.1 l=0.15
X10 a_260_60 a vss vss sky130_fd_pr__nfet_01v8 ad=0.084 pd=0.83 as=0.126 ps=1.245 w=0.48 l=0.15
X11 w_14_248 c y w_14_248 sky130_fd_pr__pfet_01v8 ad=0.24063 pd=1.8125 as=0.1925 ps=1.45 w=1.1 l=0.15
X12 a_2460_60 c vss vss sky130_fd_pr__nfet_01v8 ad=0.084 pd=0.83 as=0.126 ps=1.245 w=0.48 l=0.15
X13 y a w_14_248 w_14_248 sky130_fd_pr__pfet_01v8 ad=0.1925 pd=1.45 as=0.24063 ps=1.8125 w=1.1 l=0.15
X14 a_1360_60 b vss vss sky130_fd_pr__nfet_01v8 ad=0.084 pd=0.83 as=0.126 ps=1.245 w=0.48 l=0.15
X15 w_14_248 b y w_14_248 sky130_fd_pr__pfet_01v8 ad=0.24063 pd=1.8125 as=0.1925 ps=1.45 w=1.1 l=0.15
X16 w_14_248 b y w_14_248 sky130_fd_pr__pfet_01v8 ad=0.24063 pd=1.8125 as=0.1925 ps=1.45 w=1.1 l=0.15
X17 w_14_248 a y w_14_248 sky130_fd_pr__pfet_01v8 ad=0.24063 pd=1.8125 as=0.1925 ps=1.45 w=1.1 l=0.15
X18 vss a a_260_60 vss sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.245 as=0.084 ps=0.83 w=0.48 l=0.15
X19 vss c a_2460_60 vss sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.245 as=0.084 ps=0.83 w=0.48 l=0.15
X20 y b w_14_248 w_14_248 sky130_fd_pr__pfet_01v8 ad=0.1925 pd=1.45 as=0.24063 ps=1.8125 w=1.1 l=0.15
X21 y c w_14_248 w_14_248 sky130_fd_pr__pfet_01v8 ad=0.1925 pd=1.45 as=0.24063 ps=1.8125 w=1.1 l=0.15
X22 vss b a_1360_60 vss sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.245 as=0.084 ps=0.83 w=0.48 l=0.15
X23 w_14_248 a y w_14_248 sky130_fd_pr__pfet_01v8 ad=0.24063 pd=1.8125 as=0.1925 ps=1.45 w=1.1 l=0.15
X24 w_14_248 c y w_14_248 sky130_fd_pr__pfet_01v8 ad=0.24063 pd=1.8125 as=0.1925 ps=1.45 w=1.1 l=0.15
X25 y a w_14_248 w_14_248 sky130_fd_pr__pfet_01v8 ad=0.1925 pd=1.45 as=0.24063 ps=1.8125 w=1.1 l=0.15
X26 y b w_14_248 w_14_248 sky130_fd_pr__pfet_01v8 ad=0.1925 pd=1.45 as=0.24063 ps=1.8125 w=1.1 l=0.15
X27 a_260_60 a vss vss sky130_fd_pr__nfet_01v8 ad=0.084 pd=0.83 as=0.126 ps=1.245 w=0.48 l=0.15
X28 a_2460_60 c vss vss sky130_fd_pr__nfet_01v8 ad=0.084 pd=0.83 as=0.126 ps=1.245 w=0.48 l=0.15
X29 w_14_248 a y w_14_248 sky130_fd_pr__pfet_01v8 ad=0.24063 pd=1.8125 as=0.1925 ps=1.45 w=1.1 l=0.15
X30 w_14_248 b y w_14_248 sky130_fd_pr__pfet_01v8 ad=0.24063 pd=1.8125 as=0.1925 ps=1.45 w=1.1 l=0.15
X31 w_14_248 c y w_14_248 sky130_fd_pr__pfet_01v8 ad=0.24063 pd=1.8125 as=0.1925 ps=1.45 w=1.1 l=0.15
X32 a_1360_60 b vss vss sky130_fd_pr__nfet_01v8 ad=0.084 pd=0.83 as=0.126 ps=1.245 w=0.48 l=0.15
X33 w_14_248 c y w_14_248 sky130_fd_pr__pfet_01v8 ad=0.24063 pd=1.8125 as=0.1925 ps=1.45 w=1.1 l=0.15
X34 y a w_14_248 w_14_248 sky130_fd_pr__pfet_01v8 ad=0.1925 pd=1.45 as=0.24063 ps=1.8125 w=1.1 l=0.15
X35 y b w_14_248 w_14_248 sky130_fd_pr__pfet_01v8 ad=0.1925 pd=1.45 as=0.24063 ps=1.8125 w=1.1 l=0.15
C0 vdd w_14_248 0.62848f
C1 y w_14_248 2.39187f
C2 b c 0.00785f
C3 w_14_248 a 0.58931f
C4 a_260_60 w_14_248 0
C5 vdd c 0.04288f
C6 a_2460_60 a_1360_60 0.00202f
C7 y c 0.23395f
C8 b a_1360_60 0.06772f
C9 vdd a_1360_60 0.0026f
C10 y a_1360_60 0.10231f
C11 a_1360_60 a 0
C12 b a_2460_60 0
C13 a_260_60 a_1360_60 0.00202f
C14 a_2460_60 vdd 0.0026f
C15 y a_2460_60 0.10231f
C16 b vdd 0.04345f
C17 y b 0.23396f
C18 b a 0.00785f
C19 b a_260_60 0
C20 y vdd 0.13181f
C21 vdd a 0.04418f
C22 y a 0.21655f
C23 a_260_60 vdd 0.0026f
C24 y a_260_60 0.10122f
C25 a_260_60 a 0.06772f
C26 c w_14_248 0.58672f
C27 c a_1360_60 0
C28 a_2460_60 c 0.06772f
C29 b w_14_248 0.59165f
C30 vdd vss 1.11043f
C31 y vss 0.5891f
C32 c vss 0.84004f
C33 b vss 0.86656f
C34 a vss 0.87648f
C35 a_2460_60 vss 0.24428f
C36 a_1360_60 vss 0.2414f
C37 a_260_60 vss 0.24539f
C38 w_14_248 vss 3.51706f
.ends NOR3x1_pex
